US07550474B2
e. {6-Cyano-3-[N-trifluoroacetyl-2,2-difluoro-2-(5-chloro-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester
To a stirring solution of trifluoroacetic anhydride (5.05 g, 23.9 mmol, 5×) and {6-Cyano-3-[2,2-difluoro-2-(5-chloro-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic acid ethyl ester (prepared essentially as described for Example 1j) in CH2Cl2 (40 mL) was added slowly diisopropylethylamine (914 μL, 5.26 mmol). The reaction was allowed at room temperature overnight. The solvent was evaporated under high vacuum. The residue was dissolved in CH2Cl2 and washed with water twice. The organic layer was dried over Na2SO4. The product (2.37 g, 100% yield) was purified chromatographically (10-20% EtOac/Hex). 1H NMR (300 Hz, CDCl3) δ 8.52 (d, 1H), 7.82 (dd, 1H), 7.60 (3, 1H), 5.15 (m, 1H), 4.19 (m, 3H), 3.94 (d, 2H), 1.27 (t, 3H); LC/MS (m/z) [M+1]+ 494.0 (calculated for C20H14ClF6N3O3, 493.1).

reactant | trifluoroacetic anhydride | 23.9 mmol, 5.05 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | {6-Cyano-3-[2,2-difluoro-2-(5-chloro-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)Cl)(F)F)F)=O | C18H15ClF3N3O2
reactant | diisopropylethylamine | 5.26 mmol, 914 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | {6-Cyano-3-[N-trifluoroacetyl-2,2-difluoro-2-(5-chloro-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester | 2.37 g, 100% yield | C(C)OC(CC1=C(C(=CC=C1C#N)N(C(C(F)(F)F)=O)CC(C1=NC=C(C=C1)Cl)(F)F)F)=O | C20H14ClF6N3O3
